US08426411B2
To a solution of (cis)-tert-butyl 3-ethyl-4-(2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarbonyl)pyrrolidine-1-carboxylate (9.4 g, 16.41 mmol) in 1,4-dioxane (150 mL), TEA (7.00 mL, 50.2 mmol) and thionyl chloride (1.80 mL, 24.6 mmol) were each added sequentially in one portion to the solution. The reaction was heated at about 70° C. for about 18 h. The solvent was removed under reduced pressure. A solution of HCl (4 M in 1,4-dioxane, 41.0 mL, 164 mmol) was added in one portion and the reaction was stirred for about 3 h. Et2O (100 mL) was added and the solid was filtered. The solids were combined with the mother liquor and the solvent was removed under reduced pressure. The solid was partially dissolved in EtOAc (650 mL) and washed with aqueous saturated NaHCO3 (150 mL). An emulsion formed and was fitered through Celite® washing with EtOAc. The solid on top of the Celite® layer was product. The solid was scraped off of the Celite® and dissoved in a solution of 10% MeOH in DCM (150 mL). The organic layer was washed with water (2×30 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate (4×150 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to afford 1-((cis)-4-ethylpyrrolidin-3-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (5.88 g, 80%) as a brown foam: LC/MS (Table 1, Method a) Rt=1.55 min; MS m/z: 411 (M+H)+.

reactant | (cis)-tert-butyl 3-ethyl-4-(2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarbonyl)pyrrolidine-1-carboxylate | 16.41 mmol, 9.4 g | C(C)[C@@H]1CN(C[C@@H]1C(=O)NNC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C(=O)OC(C)(C)C | C25H32N6O5S
reactant | thionyl chloride | 24.6 mmol, 1.80 mL | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | 164 mmol, 4 M, 41.0 mL | Cl | ClH
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 1-((cis)-4-ethylpyrrolidin-3-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 5.88 g, 80% | C(C)[C@@H]1[C@@H](CNC1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H22N6O2S
